2120-02-20 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient has received 7 doses of Valium PO since yesterday morning along
   with 3 doses of Haldol PO.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-19**] 10:07 PM
   Haloperidol (Haldol) - [**2120-2-19**] 11:27 PM
   Diazepam (Valium) - [**2120-2-20**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-20**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 90 (84 - 125) bpm
   BP: 130/89(97) {114/68(80) - 137/89(100)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,776 mL
                                                                    778 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,176 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    250 mL
   Urine:
                                                                  1,800 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,976 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, flushed appearing
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   420 K/uL
   11.3 g/dL
   76 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.0 mEq/L
   5 mg/dL
   109 mEq/L
   141 mEq/L
   32.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2120-2-19**]  03:15 AM
                             [**2120-2-20**]  04:07 AM
   WBC
   10.3
   6.4
   Hct
   33.6
   32.1
   Plt
   473
   420
   Cr
   0.4
   0.4
   Glucose
   89
   76
   Other labs: PT / PTT / INR:13.6/33.5/1.2, ALT / AST:[**12-30**], Alk Phos / T
   Bili:48/0.3, Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
 TACHYCARDIA, OTHER
   31 yo F with a PMH of bipolar disorder brought in by family for
   paranoia and inability to sleep for 7 days.
   .
   # Acute Manic Episode - Pt with hx of bipolar d/o presenting with
   evidence of psychosis with thought disorder, paranoid ideation,
   lability and pressured speech most likely exacerbated/triggered by
   polypharm abuse including Ritalin and benzos
   - appreciate Psych recs - Section 12
   - monitor CIWA scale for benzo withdrawal
 received valium X7 yest
   - haldol 1-2mg po PRN agitation
   - hold lexapro and ritalin, await psych recs for meds
   - Head CT per psych recs
   - pt requires [**Last Name (LF) 3108**], [**First Name3 (LF) 8**] not leave AMA
   .
   # Tachycardia - in [**Name (NI) **] pt developed tachycardic episode with flushing,
   concern for serotinergic vs anticholinergic side effect however no
   evidence currently, most likely related to withdrawal of benzos,
   Ritalin, opiates.
   - QT interval stable
   - tox screen positive for opiates and benzos suggest
   - continue CIWA scale for benzo withdrawal per psych recs
   - CK flat, no clear evidence of serotonin syndrome
   .
   # Chronic Tylenol Overdose - pt reported long standing tylenol
   ingestion, per tox recs was given NAC loading dose in ER for level of
   38. Completed protocol of 50mg/kg over 4 hrs followed by 100mg/kg over
   16 hours
   - trend LFTS
   .
   # LE numbness/pain
 suggestive of neuropathy, b12, TSH, RPR WNL. PT
   consult
   .
   # Chronic Bronchitis - lungs clear, cont. to monitor
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripheral
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: call out to medical floor
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-2-19**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Call out

2120-02-20 08:20:00 Physician Attending Progress Note
Chief Complaint: chronic OD with Tylenol, Ritalin, ativan
   HPI: BZD withdrawal, manic episode
   24 Hour Events:
   Agitation improved with valium and haldol. Much ca
   CT head pending for bizarre agitation.
   Tachycardia improved, not particularly respond to fluids.
   TSH normal.
   SW notes that CA psychs are still giving her prescriptions.
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-2-19**] 10:07 PM
   Haloperidol (Haldol) - [**2120-2-19**] 11:27 PM
   Diazepam (Valium) - [**2120-2-20**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-20**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 90 (84 - 125) bpm
   BP: 119/79(88) {114/68(80) - 132/89(97)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,776 mL
                                                                    778 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,176 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    330 mL
   Urine:
                                                                  1,800 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,976 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Diaphoretic,
   sleeping but arousable
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, dry mucous membranes
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   420 K/uL
   76 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.0 mEq/L
   5 mg/dL
   109 mEq/L
   141 mEq/L
   32.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2120-2-19**]  03:15 AM
                             [**2120-2-20**]  04:07 AM
   WBC
   10.3
   6.4
   Hct
   33.6
   32.1
   Plt
   473
   420
   Cr
   0.4
   0.4
   Glucose
   89
   76
   Other labs: PT / PTT / INR:13.6/33.5/1.2, ALT / AST:[**12-30**], Alk Phos / T
   Bili:48/0.3, Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
 TACHYCARDIA, OTHER
   31 yo female with bipolar disorder admitted with acute mania, OD and
   withdrawal from Ritalin, Ativan and vicodin.
   Agitation: controlled with prn valium per CIWA and prn + regular
   haldol. Psych following. QTc wnl. CT head for bizarre hallucinations
   per psych.
   Tachycardia: sinus, TSH normal, no response to IVF, asymptomatic
follow
   on floor.
   Chronic Tylenol OD: Completed NAC
   Leg swelling and pain: likely related to neuropathy. PT eval. RPR neg.
   On MVI
   ICU Care
   Nutrition:  po
   Glycemic Control:
   Lines / Intubation:
   20 Gauge - [**2120-2-19**] 01:25 AM
   Comments:
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor
   Total time spent: 35 minutes
   Patient is no longer critically ill

2120-02-21 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Kept overnight for agitation, frequent medication dosing and
   tachycardia. Given 1L NS bolus without effect.
   Psych recs for direct from ICU admission to [**Hospital1 **] 4.
   1mg ativan IV x2 for acute anxiety
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-2-20**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-21**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 98 (90 - 113) bpm
   BP: 118/81(89) {102/62(73) - 135/89(97)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,718 mL
                                                                    100 mL
   PO:
                                                                  1,180 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    538 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                      0 mL
   Urine:
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: Alert, oriented, flushed appearing
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   420 K/uL
   11.3 g/dL
   76 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.0 mEq/L
   5 mg/dL
   109 mEq/L
   141 mEq/L
   32.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2120-2-19**]  03:15 AM
                             [**2120-2-20**]  04:07 AM
   WBC
   10.3
   6.4
   Hct
   33.6
   32.1
   Plt
   473
   420
   Cr
   0.4
   0.4
   Glucose
   89
   76
   Other labs: PT / PTT / INR:13.6/33.5/1.2, ALT / AST:[**12-30**], Alk Phos / T
   Bili:48/0.3, Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   31 yo F with a PMH of bipolar disorder brought in by family for
   paranoia and inability to sleep for 7 days.
   .
   # Acute Manic Episode - Pt with hx of bipolar d/o presenting with
   evidence of psychosis with thought disorder, paranoid ideation,
   lability and pressured speech most likely exacerbated/triggered by
   polypharm abuse including Ritalin and benzos
   - appreciate Psych recs - Section 12
   - monitor CIWA scale for benzo withdrawal
 received valium X7 yest
   - haldol 1-2mg po PRN agitation
   - hold ritalin, await psych recs for meds, restarted lexapro yest.
   - Head CT WNL
   - pt requires [**Last Name (LF) 3108**], [**First Name3 (LF) 8**] not leave AMA
   .
   # Tachycardia - in [**Name (NI) **] pt developed tachycardic episode with flushing,
   concern for serotinergic vs anticholinergic side effect however no
   evidence currently, most likely related to withdrawal of benzos,
   Ritalin, opiates.
   - QT interval stable
   - tox screen positive for opiates and benzos suggest
   - continue CIWA scale for benzo withdrawal per psych recs
   - CK flat, no clear evidence of serotonin syndrome
   .
   # Chronic Tylenol Overdose - pt reported long standing tylenol
   ingestion, per tox recs was given NAC loading dose in ER for level of
   38. Completed protocol of 50mg/kg over 4 hrs followed by 100mg/kg over
   16 hours
   - trend LFTS - stable
   .
   # LE numbness/pain
 suggestive of neuropathy, b12, TSH, RPR WNL. PT
   consult
   .
   # Chronic Bronchitis - lungs clear, cont. to monitor
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripheral
   .
   # Code: Full
   .
   # Communication: Patient
   .
   # Disposition: call out to medical floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-2-20**] 08:30 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  NA
   VAP:   NA
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: transfer to Psych

2120-02-21 10:15:00 Physician Attending Progress Note
Chief Complaint: Drug withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Much improved agitation overnight...tachycardia resolving.
   History obtained from Patient
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   muscle spasm;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2120-2-20**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2120-2-21**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-2-21**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 96 (89 - 113) bpm
   BP: 117/80(88) {102/62(73) - 135/89(97)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,718 mL
                                                                    100 mL
   PO:
                                                                  1,180 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    538 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                      0 mL
   Urine:
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Diaphoretic,
   sleeping but arousable
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, dry mucous membranes
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Few basilar crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   445 K/uL
   95 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.7 mEq/L
   7 mg/dL
   109 mEq/L
   143 mEq/L
   31.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2120-2-19**]  03:15 AM
                             [**2120-2-20**]  04:07 AM
                             [**2120-2-21**]  05:50 AM
   WBC
   10.3
   6.4
   5.9
   Hct
   33.6
   32.1
   31.7
   Plt
   [**Telephone/Fax (3) 4441**]
   Cr
   0.4
   0.4
   Glucose
   89
   76
   95
   Other labs: PT / PTT / INR:13.6/33.5/1.2, ALT / AST:[**12-30**], Alk Phos / T
   Bili:48/0.3, Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Imaging: CT head: no acute changes
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O POISONING / OVERDOSE, ACETAMINOPHEN (TYLENOL, APAP)
 TACHYCARDIA, OTHER
   31 yo female with bipolar disorder admitted with acute mania, OD and
   withdrawal from Ritalin, Ativan and vicodin.
   Agitation: well controlled with prn valium per CIWA and prn + regular
   haldol. Psych following. QTc wnl. Lexapro restarted. Ritalin restarted.
   Tachycardia: sinus, TSH normal, no response to IVF, asymptomatic
much
   improved
   Resp: incentive spirometry for mild hypoxemia likely related to
   atelectasis
   Chronic Tylenol OD: Completed NAC
   Leg swelling and pain: likely related to neuropathy. PT eval. RPR neg.
   On MVI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-2-20**] 08:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: